US09388166B2
A solution of crude 2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-ylamine (65 mg, 0.18 mmol) in CH2Cl2 (5 mL) was added 2,2,2-trifluoroacetic anhydride (187 mg, 0.89 mmol) followed by triethylamine (180 mg, 1.78 mmol). The solution was stirred at 25° C. for 1 hour, and poured into water. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo gave a brown solid. Flash chromatography (70/30 hexanes/ethyl acetate) afforded 2,2,2-trifluoro-N-[2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-acetamide (48 mg, 59%) as a white solid. MH+ 461.8.

reactant | 2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-ylamine | 0.18 mmol, 65 mg | IC1=C(C(=NC=C1)OC)C=1NC2=CC(=CC=C2C1)N | C14H12IN3O
reactant | 2,2,2-trifluoroacetic anhydride | 0.89 mmol, 187 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 1.78 mmol, 180 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-[2-(4-iodo-2-methoxy-pyridin-3-yl)-1H-indol-6-yl]-acetamide | 48 mg, 59% | FC(C(=O)NC1=CC=C2C=C(NC2=C1)C=1C(=NC=CC1I)OC)(F)F | C16H11F3IN3O2
